US03968227
1,5-bis-[N'-(2-(5-Methyl-4-imidazolylmethylthio)ethyl) guanidino]pentane
The reaction of 1,5-diaminopentane (0.43 g) with S-methyl-N-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]thiouronium sulphate (2.52 g) by the method described in Example 5 afforded the title compound which was isolated as the dipicrate (1.8 g) m.p. 115°-120°.

reactant | 1,5-diaminopentane | 0.43 g | NCCCCCN | C5H14N2
reactant | S-methyl-N-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]thiouronium sulphate | 2.52 g | S(=O)(=O)([O-])[O-].CSC(=[NH+]CCSCC=1N=CNC1C)N.CSC(=[NH+]CCSCC=1N=CNC1C)N
product | 1,5-bis-[N'-(2-(5-Methyl-4-imidazolylmethylthio)ethyl) guanidino]pentane | CC1=C(N=CN1)CSCCN=C(NCCCCCNC(=NCCSCC=1N=CNC1C)N)N | C21H38N10S2
